US05306692
Ethyl 2-(6-aminoindazol-1-yl)propionate (0.49 g) was stirred with hot 35% sulphuric acid (2.12cm3), ice (2.12 g) added and the mixture cooled in an ice/salt bath. Sodium nitrite (0.187 g) in water (2cm3) was added dropwise at 0° C. The mixture was stirred for 5 minutes at 0° C. and a few crystals of urea added. Hydrated copper (II) nitrate (8 g) in water (74cm3) was then added followed by copper (I) oxide (0.3 g) and the mixture stirred for 15 minutes at 0° C. and 1.5 hours at hours at room temperature. The reaction mixture was extracted with ethyl acetate four times, the combined organic extracts washed with water, dried (MgSO4), filtered and the filtrate concentrated under vacuum. The residue was purified by chromatography (SiO2, diethyl ether; then hexane: diethyl ether, 35:65) to give ethyl 2-(6-hydroxyindazol-1-yl)propionate (30 mgs)

reactant | Ethyl 2-(6-aminoindazol-1-yl)propionate | 0.49 g | NC1=CC=C2C=NN(C2=C1)C(C(=O)OCC)C | C12H15N3O2
reactant | sulphuric acid | 2.12cm3 | S(O)(O)(=O)=O | H2O4S
reactant | Sodium nitrite | 0.187 g | N(=O)[O-].[Na+]
reactant | urea | NC(=O)N | CH4N2O
solvent | water | 2cm3 | O | H2O
solvent | water | 74cm3 | O | H2O
catalyst | copper (I) oxide | 0.3 g | [Cu-]=O
product | ethyl 2-(6-hydroxyindazol-1-yl)propionate | 30 mgs | OC1=CC=C2C=NN(C2=C1)C(C(=O)OCC)C | C12H14N2O3
